US07659294B2
Step E: Trans-5-(4-Hydroxy-3-methyl-phenyl)-3-(2-propenyl)-2-pyrrolidinone
Boron tribromide (10.1 mL, 1.0 M in CH2Cl2, 10.1 mmol) was added dropwise to a solution of trans-5-(4-methoxy-3-methyl-phenyl)-3-(2-propenyl)-2-pyrrolidinone (1.13 g, 4.61 mmol) in 10.0 mL of CH2Cl2 at −78° C. The mixture was stirred at −78° C. for 30 min and then at 0° C. for 1 hr. The reaction was quenched by 20 mL of H2O. The mixture was poured into a mixture of ethyl ether and EtOAc (1:1, 50.0 mL) and extracted with 2.0 N of NaOH (3×30 mL). Aqueous layers were combined and acidified using 5.0 N HCl and extracted with EtOAc (3×50 mL). Organic layers were combined, dried over MgSO4, and concentrated to give 940 mg (88%) of the crude title compound as a light brown solid, which was used for next step without further purification.

reactant | Boron tribromide | 10.1 mmol, 1.0 M, 10.1 mL | B(Br)(Br)Br | BBr3
reactant | trans-5-(4-methoxy-3-methyl-phenyl)-3-(2-propenyl)-2-pyrrolidinone | 4.61 mmol, 1.13 g | COC1=C(C=C(C=C1)[C@H]1C[C@@H](C(N1)=O)CC=C)C | C15H19NO2
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | Trans-5-(4-Hydroxy-3-methyl-phenyl)-3-(2-propenyl)-2-pyrrolidinone | 940 mg, 88% | OC1=C(C=C(C=C1)[C@H]1C[C@@H](C(N1)=O)CC=C)C | C14H17NO2
